US07943622B2
1-(4-(6-methoxybenzo[d]thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazin-1-yl)ethanone dihydrochloride
Acetic anhydride (0.100 mL) was added to a solution of 6-methoxy-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]thiazole hydrochloride (73.2 mg, 0.186 mmol) in THF (2 mL), and the mixture was heated to 70° C. for 2 h. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and treated with 4 M HCl in 1,4-dioxane (6 mL). This was concentrated under reduced pressure, yielding 74.3 mg (85%) of the title compound as a white solid. LC-MS: RT=6.10 min, [M+H]+=399.0.

reactant | Acetic anhydride | 0.100 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-methoxy-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]thiazole hydrochloride | 0.186 mmol, 73.2 mg | Cl.COC1=CC2=C(N=C(S2)N2C(CNCC2)COC=2C=NC=CC2)C=C1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(4-(6-methoxybenzo[d]thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazin-1-yl)ethanone dihydrochloride | 74.3 mg, 85% | Cl.Cl.COC1=CC2=C(N=C(S2)N2C(CN(CC2)C(C)=O)COC=2C=NC=CC2)C=C1 | InChI=1S/C20H22N4O3S.2ClH/c1-14(25)23-8-9-24(15(12-23)13-27-17-4-3-7-21-11-17)20-22-18-6-5-16(26-2)10-19(18)28-20;;/h3-7,10-11,15H,8-9,12-13H2,1-2H3;2*1H
